US08957068B2
A mixture of (S)-3-(2-chloro-5-fluoropyrimidin-4-yl)-4-phenyloxazolidin-2-one (40 mg, 0.136 mmol), (S)-1-cyclopropylethanamine (34.8 mg, 0.409 mmol), Hunig's Base (0.119 mL, 0.681 mmol) in DMSO (0.4 mL) was heated under argon at 105-115° C. for ˜18 hrs (alternative: 120-135° C. for ˜90 min). Then mixture was allowed to cool to room temperature. The mixture was diluted with DMSO and water (˜10 vol. % of DMSO), filtered through a syringe filter and purified by reverse phase HPLC. Selected fractions were collected and lyophilized providing (S)-3-(2-((S)-1-cyclopropylethylamino)-5-fluoropyrimidin-4-yl)-4-phenyloxazolidin-2-one (26 mg) as a white solid as its trifluoroacetic acid salt.

reactant | (S)-3-(2-chloro-5-fluoropyrimidin-4-yl)-4-phenyloxazolidin-2-one | 0.136 mmol, 40 mg | ClC1=NC=C(C(=N1)N1C(OC[C@@H]1C1=CC=CC=C1)=O)F | C13H9ClFN3O2
reactant | (S)-1-cyclopropylethanamine | 0.409 mmol, 34.8 mg | C1(CC1)[C@H](C)N | C5H11N
reactant | Hunig's Base | 0.681 mmol, 0.119 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 0.4 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (S)-3-(2-((S)-1-cyclopropylethylamino)-5-fluoropyrimidin-4-yl)-4-phenyloxazolidin-2-one | 26 mg | C1(CC1)[C@H](C)NC1=NC=C(C(=N1)N1C(OC[C@@H]1C1=CC=CC=C1)=O)F | C18H19FN4O2
